US03976681
Step D: 5 -[1',3'-Dioxo-4'-chloro-5'-methylspiro-(cyclopentane-1,2'-indan)-6'-yloxymethyl]-tetrazole
A stirred mixture of [1',3'-dioxo-4'-chloro-5'-methylspiro(cyclopentane-1,2'-indan)-6'-yloxy]acetonitrile (9.0 g., 0.03 mole), sodium azide (3.9 g., 0.06 mole) and ammonium chloride (3.2 g., 0.06 mole) in dimethylformamide (150 ml.) is heated at 95°C. for 2 hours then cooled and poured into dilute aqueous hydrochloric acid affording 9.9 g. of 5-[1',3'-dioxo-4'-chloro-5'-methylspiro(cyclopentane-1,2'-indan)-6'-yloxymethyl]tetrazole which melts at 211°-212°C. after recrystallization from acetic acid-water.

reactant | [1',3'-dioxo-4'-chloro-5'-methylspiro(cyclopentane-1,2'-indan)-6'-yloxy]acetonitrile | 0.03 mole, 9.0 g | O=C1C2(C(C3=C(C(=C(C=C13)OCC#N)C)Cl)=O)CCCC2 | C16H14ClNO3
reactant | sodium azide | 0.06 mole, 3.9 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.06 mole, 3.2 g | [Cl-].[NH4+]
reactant | hydrochloric acid | 9.9 g | Cl | ClH
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | 5 -[1',3'-Dioxo-4'-chloro-5'-methylspiro-(cyclopentane-1,2'-indan)-6'-yloxymethyl]-tetrazole | O=C1C2(C(C3=C(C(=C(C=C13)OCC1=NN=NN1)C)Cl)=O)CCCC2 | C16H15ClN4O3
